US07491821B2
To a mixture of benzaldehyde (2.6 ml, 25.58 mmol) and acetophenone (6 ml, 51.44 mmol) in anhydrous benzene (3 ml), was added boron trifluoride diethyl etherate (8 ml, 63.13 mmol) at RT. The mixture was heated at reflux for 2 h, cooled to RT, acetone was added (5 ml), and the resulting dark red solution was poured into ether (250 ml). A dark yellow precipitate formed, which was isolated and redissolved in acetone (30 ml), ether was added until the yellow solid was formed, isolated and dried to provide 2,4,6-triphenyl-pyranylium (3.87 g, 48%, mw=309). To a suspension of 2,4,6-triphenyl-pyranylium (3.86 g, 12.5 mmol) in acetone (50 ml), was added a solution of Na2CO3 (1.7 g, 16 mmol) in H2O (4.6 ml), and the mixture was stirred at RT for 2 h. To the reaction mixture, iodine (4.1 g, 16.1 mmol) was added, and the resulting mixture was stirred at RT overnight, then poured into a solution of sodium thiosulfate pentahydrate (40.0 g, 160 mmol) in water (250 ml), extracted with CH2Cl2. The organic phase was washed with brine, dried over anhydrous sodium sulfate, decanted, and the organic solution concentrated under reduced pressure. The residue was purified by silica gel chromatography (1% EtOAc in hexane) to provide (3,5-diphenylfuran-2-yl)-phenyl-methanone (intermediate XXVIa, 1.6 g, 19%) as a yellow solid.

reactant | 2,4,6-triphenyl-pyranylium | 12.5 mmol, 3.86 g | C1(=CC=CC=C1)[C+]1OC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1
reactant | Na2CO3 | 16 mmol, 1.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | iodine | 16.1 mmol, 4.1 g | II | I2
reactant | sodium thiosulfate pentahydrate | 160 mmol, 40.0 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | H2O | 4.6 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | (3,5-diphenylfuran-2-yl)-phenyl-methanone | 1.6 g, 19% | C1(=CC=CC=C1)C1=C(OC(=C1)C1=CC=CC=C1)C(=O)C1=CC=CC=C1 | C23H16O2
